US07351825B2
(1R*,7R*)-3-oxo-7-phenyl-4-oxa-2-azabicyclo[5.1.0]octane-1-carboxylic acid methyl ester (step 2-5)
To a solution of (1R*,2S*)-cis-1-carbamoyl-2-(2-hydroxyethyl)-2-phenylcyclopropanecarboxylic acid methyl ester (0.30 g, 1.1 mmol) obtained in Preparation Example 2-4-2 in an ethyl acetate:acetonitrile:water=1:2:1 mixture (12 mL) was added iodobenzene diacetate (0.48 g, 1.5 mmol) at 0° C. After stirring at room temperature for 1.5 hours, iodobenzene diacetate (64 mg, 0.23 mmol) was further added, and the mixture was stirred for 1.5 hours. After the obtained solution was diluted with ethyl acetate and separated into layers, the aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium chloride solution, and dried over sodium sulfate. After filtration and evaporation, the obtained residue was separated and purified by silica gel chromatography (hexane:ethyl acetate=40:1 to 1:2) to give the title compound (0.11 g, 35%) as a white solid.

reactant | acetonitrile | C(C)#N | C2H3N
reactant | water | O | H2O
reactant | iodobenzene diacetate | 1.5 mmol, 0.48 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | iodobenzene diacetate | 0.23 mmol, 64 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1R*,7R*)-3-oxo-7-phenyl-4-oxa-2-azabicyclo[5.1.0]octane-1-carboxylic acid methyl ester | 0.11 g, 35% | COC(=O)[C@@]12NC(OCC[C@]2(C1)C1=CC=CC=C1)=O | C14H15NO4
